US04675449
These examples further illustrate the process of the invention. In each of the examples, a 300 cc Hastelloy C autoclave was charged with a quantity of 2-naphthyl acetate. In Examples 7, 8 and 9, one mole of acetic anhydride per mole of 2-naphthyl acetate was also charged with the 2-naphthyl acetate. The autoclave was cooled to -50° C. and evacuated to 150 mm Hg whereupon a quantity of anhydrous hydrogen fluoride was transferred from a cylinder to the autoclave at such a rate that the temperature did not exceed 0° C. The contents were warmed to reaction temperature and stirred for a predetermined period of reaction during which time a pressure of ca. 40 psig was generated. At the end of the run, the hydrogen fluoride was vented through a caustic scrubber and the contents of the autoclave were poured onto ca. 30 g of ice. The pH of the mixture was adjusted to 6.5 using a solution of 50% potassium hydroxide and the mixture was then extracted with 75 mL of ethyl acetate (3×). The organic solution was dried over anhydrous MgSO4, filtered, and the solvent was removed using a rotary evaporator to yield the 6-hydroxy-2-naphthone.

reactant | 2-naphthyl acetate | C(C)(=O)OC1=CC2=CC=CC=C2C=C1 | C12H10O2
reactant | acetic anhydride | one mole | C(C)(=O)OC(C)=O | C4H6O3
catalyst | Hastelloy C | 300 cc | [Cr].[Co]
product | 6-hydroxy-2-naphthone | OC=1C=C2C=CC(CC2=CC1)=O | C10H8O2
